US05003080
A solution of (4R-cis)-1,1-dimethylethyl 6-cyanomethyl-2,2-dimethyl-1,3-dioxane-4 -acetate, 5.63 g (0.048 mol), in 100 mL of methanol saturated with gaseous ammonia is treated with 0.5 g of Raney nickel #30 and hydrogen gas in a shaker at 50 psi and 40 ° C. After 16 hours, thin layer chromatography indicates no starting nitrile present. The suspension is cooled, filtered through filter aid, and concentrated to an oil. This crude oil is purified by flash chromatography on silica gel with 30:20:1 (ethyl acetate:methanol:ammonium hydroxide) as eluent to give 4.93 g of (4R-cis)-1,1-dimethylethyl 6-(2-aminoethyl)-2,2-dimethyl-1,3-dioxane-4-acetate (98.2 area %) as a clear oil with acceptable IR, NMR, C-NMR and MS spectra.

reactant | (4R-cis)-1,1-dimethylethyl 6-cyanomethyl-2,2-dimethyl-1,3-dioxane-4 -acetate | C(#N)C[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)OC(C)(C)C | C14H23NO4
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | water | 0.5 g | O | H2O
product | (4R-cis)-1,1-dimethylethyl 6-(2-aminoethyl)-2,2-dimethyl-1,3-dioxane-4-acetate | 4.93 g | NCC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)OC(C)(C)C | C14H27NO4
